Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Pertinent labs:
==================

___ 05:10AM BLOOD WBC-2.7* RBC-2.66* Hgb-8.6* Hct-25.8* 
MCV-97 MCH-32.3* MCHC-33.3 RDW-14.7 RDWSD-52.9* Plt Ct-76*
___ 08:45AM BLOOD Neuts-50.0 ___ Monos-18.6* 
Eos-5.2 Baso-1.5* Im ___ AbsNeut-1.72 AbsLymp-0.83* 
AbsMono-0.64 AbsEos-0.18 AbsBaso-0.05
___ 05:10AM BLOOD ___ PTT-43.0* ___
___ 05:10AM BLOOD Glucose-109* UreaN-7 Creat-0.7 Na-131* 
K-3.6 Cl-98 HCO3-20* AnGap-13
___ 05:10AM BLOOD ALT-21 AST-48* LD(LDH)-180 AlkPhos-75 
TotBili-8.5*
___ 05:10AM BLOOD Albumin-3.3* Calcium-8.0* Phos-3.4 Mg-1.9
___ 08:57AM BLOOD Lactate-1.5

IMAGING:
RUQUS ___
IMPRESSION:
 
 
1. Patent hepatic vasculature.
2. Cirrhotic liver morphology with sequela of portal 
hypertension including
moderate to large volume ascites, splenomegaly, and a patent 
paraumbilical
vein
3. Gallbladder sludge.  No definitive features of cholecystitis.
4. Small left pleural effusion.

DOPPLER LIVER ULTRASOUND
1. Patent hepatic vasculature.
2. Cirrhotic liver morphology with sequela of portal 
hypertension including
moderate to large volume ascites, splenomegaly, and a patent 
paraumbilical
vein
3. Gallbladder sludge.  No definitive features of cholecystitis.
4. Small left pleural effusion.
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
========================
[] EGD ___ concerning for ___ but unable to biopsy due 
to bleeding - may consider repeat EGD with bx in future
[] Refused replacement of his dobhoff due to NG-tube-induced 
nausea/vomiting in two separate episodes. Seen by nutrition who 
recommended 8 Ensure per day.

[]Transplant workup (deferred):
To see Dr. ___ in the ___ clinic for f/u

SUMMARY:
============
___ man with EtOH Cirrhosis d/b ascites, esophageal varices
recurrent after banding, severe malnutrition, presents with
nausea/vomiting that resolved on admission.

ACUTE ISSUES:
=============
#ETOH CIRRHOSIS d/b ascites, EV s/p banding with recurrence
Childs ___ C; MELD 30 on admission.
--VOLUME: last LVP ___ currently with mod ascites but
intravascularly dry; plan for LVP ___ + albumin; scheduled for 
outpatient
paracentesis ___
--HE: on lactulose for hx of mild asterixis; not on rifampin
--BLEEDING: grade I distal esophageal varices after banding
___ no e/o GIB at this time
--INFECTION: no hx of SBP; dx para in ED with 5 PMNs not c/w SBP
--Transplant: undergoing workup now, not yet listed (see 
transitional issues
for what is left in workup)
- NUTRITION: ___ placed on recent admission was not replaced 
due to
patient preference; he was seen by nutrition who recommended 8 
ensures/day and high caloire

#Discharge against medical recommendation
Given patient's severe protein calorie malnutrition, a 
nasogastric tube would be the optimal goal to maximize his 
nutritional status prior to possible liver transplant. This was 
explained to the patient however he declined an NG tube since he 
said he had not tolerated it twice now. He was seen by nutrition 
with recs for high calorie intake. At the time of discharge, the 
medical team (Hepatology attending and residents) explained to 
Mr ___ that nutritional optimization was integral to a 
successful liver transplant and that they recommended remaining 
in the hospital to ensure that he was able to take in enough 
calories by mouth. Mr ___ stated that he did not feel the 
hospital was doing anything for him and did not wish to stay 
here. He was agreeable to increasing his food intake and 
endorsed that he would try to drink 8 ensures per day. The 
medical team also explained that compliance was an important 
aspect of liver transplant candidacy and that it would be 
important in the future to be in the hospital, even if felt 
well. The patient stated understanding of this and still wished 
to leave as he felt he did not have much time to live and did 
not want to spend it in the hospital.

#Nausea/vomiting
Patient attributes n/v to ___. Currently asymptomatic
- therapeutic para plan for ___
- IV ondansetron PRN Q8 if QTc <500

#Hyponatremia
Na 126 on admit from recent baseline of 130-132. Likely
hypovolemic i/s/o nausea and vomiting, with urine Na <20.
Superimposed on worsening cirrhotic physiology. Not currently on
diuretics given his refractory ascites. While Cr is normal this
is probably under-estimated given his sarcopenia. He was given
albumin with improvement.

#Severe protein calorie malnutrition
Pt had ___ placed last admission and did not tolerate the
tube. continued folic acid, thiamine, vitamin D. Nutrition
consulted and #############

CHRONIC/RESOLVED ISSUES:
=========================
#Chronic borderline- macrocytic anemia
B12 and folate recently checked and WNL. Most likely due to
cirrhosis and splenomegaly. At baseline.

#Esophageal ulcers
Initially seen on ___ and most likely due to banding of
varices. Not visualized on repeat EGD in ___. Continued PPI.

#C/f ___ Esophagus
Salmon mosaic mucosa visualized on ___ EGD concerning for
___, however not bx'd given concomitant esophagitis and 
c/f
bleed. Continued PPI.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Pantoprazole 40 mg PO Q24H 
3. Thiamine 100 mg PO DAILY 
4. Lactulose 30 mL PO TID 
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Lactulose 30 mL PO TID  
3.  Multivitamins 1 TAB PO DAILY  
4.  Pantoprazole 40 mg PO Q24H  
5.  Thiamine 100 mg PO DAILY  
6.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY:
===========
nausea with vomiting
EtOH cirrhosis decompensated by ascites, HE
Protein calorie malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to the hospital because you had nausea and 
vomiting.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- Your nausea and vomiting improved and your NG tube was not 
replaced because it caused you discomfort.
- You were seen by a nutritionist who recommended a low-sodium 
and high calorie diet with 8 ensures per day.
- You improved and were ready to leave the hospital.

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?

**CONTINUE TO EAT A HIGH-CALORIE DIET WITH LOW SODIUM; TRY TO 
DRINK 8 ENSURES PER DAY**
- You must never drink alcohol again or you will die
- Please enroll in AA and work with your primary care doctor to 
determine the best strategy to help you stay sober
- Take all of your medications as prescribed (listed below)
- Keep your follow up appointments with your doctors
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds
- Please stick to a low salt diet and monitor your fluid intake
- If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

It was a pleasure participating in your care. We wish you the 
best!
- Your ___ Care Team
 
Followup Instructions:
___